US04621084
6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.15 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.3 g) and 2-amino-4-methylpyridine (2.5 g). mp. 239°-241° C.

reactant | 6-(2-bromopropionyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.3 g | BrC(C(=O)C=1C=CC2=C(NC(CO2)=O)C1)C | C11H10BrNO3
reactant | 2-amino-4-methylpyridine | 2.5 g | NC1=NC=CC(=C1)C | C6H8N2
product | 6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.15 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(NC(CO1)=O)C2 | C17H15N3O2
